US07728035B2
1. 4,5-Dihydroxy-9,10-dioxoanthracene-2-carboxylic acid
Diacerein (150 g, 0.41 mol) was stirred in 10% (w/w) Na2CO3 solution (4 L) resulting in a red mixture. After stirring overnight the mixture was acidified to pH2 with 5M HCl solution to give a yellow precipitate. This was filtered and dried in a vac-oven at 50° C. (168 g,>100%).

reactant | Diacerein | 0.41 mol, 150 g | CC(=O)OC=1C=CC=C2C1C(=O)C3=C(C=C(C=C3OC(=O)C)C(=O)O)C2=O | C19H12O8
reactant | HCl | 5M | Cl | ClH
solvent | Na2CO3 | 4 L | C(=O)([O-])[O-].[Na+].[Na+]
product | 4,5-Dihydroxy-9,10-dioxoanthracene-2-carboxylic acid | OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O)C(=O)O | C15H8O6
